US04017557
A mixture of methyl acrylate, monoethyl maleate, and benzene (weight ratio: 68.28/2.46/29.26 ) was pressured to about 422 kg/sq cm; ethylene was separately pressured to about 422 kg/sq cm. Separate streams of this mixture (0.91kg/hr) and ethylene (6.35 kg/hr) were joined and pressured to 1900 kg/sq cm. The resulting feed stream then entered the autoclave. Simultaneously, a catalyst solution, made by adding 50 ml of tert-butyl peroxypivalate to 4.5 kg of benzene was introduced at the rate of 0.00204 kg/hr to keep the temperature at 170° C. The effluent from the autoclave passed through a let-down valve to a chamber at atmospheric pressure where most of the residual monomers and solvent flashed off. The ethylene/methyl acrylate/monoethyl maleate terpolymer thus isolated was freed from the small amount of residual volatiles by heating for 16 hours at 80° C. in a nitrogen stream. Acid-base titration indicated that 0.25 meq. of acid groups was present per gram of terpolymer, corresponding to 3.6 weight % monoethyl maleate in the copolymer.

reactant | methyl acrylate | C(C=C)(=O)OC | C4H6O2
reactant | monoethyl maleate | C(\C=C/C(=O)[O-])(=O)OCC
reactant | ethylene | C=C | C2H4
reactant | tert-butyl peroxypivalate | 50 ml | C(C(C)(C)C)(=O)OOC(C)(C)C | C9H18O3
solvent | benzene | 4.5 kg | C1=CC=CC=C1 | C6H6
product | ethylene/methyl acrylate monoethyl maleate | C=C.C(C=C)(=O)OC.C(\C=C/C(=O)[O-])(=O)OCC | InChI=1S/C6H8O4.C4H6O2.C2H4/c1-2-10-6(9)4-3-5(7)8;1-3-4(5)6-2;1-2/h3-4H,2H2,1H3,(H,7,8);3H,1H2,2H3;1-2H2/p-1/b4-3-;;
